US08378104B2
Step A: 4-iodo-furo[2,3-c]pyridin-7-ylamine
To a solution of furo[2,3-c]pyridine-7-ylamine (1.5 g, 11.2 mmol) in acetonitrile (40 mL) was added NIS (3.02 g, 13.4 mmol) portionwise over a period of 15 min. The resultant mixture was stirred at RT for 16 h. The reaction mixture was quenched with 20% aqueous sodium thiosulfate solution (20 mL) and stirred for 10 min. The mixture was extracted with ethyl acetate (70 mL). The organic layer was washed with aqueous 20% sodium thiosulfate solution (20 mL), water (2×50 mL), and brine (40 mL), dried over sodium sulfate, filtered, and concentrated. Purification of the residue by column chromatography (25% ethyl acetate:hexanes) afforded 2.5 g (86%) of the title compound.

reactant | furo[2,3-c]pyridine-7-ylamine | 11.2 mmol, 1.5 g | O1C=CC=2C1=C(N=CC2)N | C7H6N2O
reactant | NIS | 13.4 mmol, 3.02 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 4-iodo-furo[2,3-c]pyridin-7-ylamine | 2.5 g, 86% | IC1=C2C(=C(N=C1)N)OC=C2 | C7H5IN2O
